US05455361
Preparation of 1,1-dibutoxyethene
209 g (1 mol) of 1-chloro-2,2-dibutoxyethane, 300 ml of tert.-butyl methyl ether, 13.2 g (0.13 mol) of 2-methyl-2-butanol, 8 g of polyethylene glycol 1000 dimethyl ether and 200 g (3 mol) of technical grade potassium hydroxide were heated under reflux while stirring for six hours. The reaction mixture was worked up as described above. The conversion was 77.1% of theoretical, the yield of pure material was 60.8% of theoretical (b.p. 87°-88° C., 1.5 kPa).

reactant | 1-chloro-2,2-dibutoxyethane | 1 mol, 209 g | ClCC(OCCCC)OCCCC | C10H21ClO2
reactant | 2-methyl-2-butanol | 0.13 mol, 13.2 g | CC(C)(CC)O | C5H12O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tert.-butyl methyl ether | 300 ml | COC(C)(C)C | C5H12O
product | 1,1-dibutoxyethene | C(CCC)OC(=C)OCCCC | C10H20O2
